US07087612B2
2-[7-(3-Fluoro-benzyloxy)-2-methyl-4-oxo-4H-quinazolin-3-yl]-acetamide
4-(3-Fluoro-benzyloxy)-2-nitro-benzoic acid (3-fluoro-benzyl) ester and 4-(3-fluoro-benzyloxy)-2-nitro-benzoic acid methyl ester: A mixture of 4-fluoro-2-nitro-benzoic acid methyl ester (9.2 g, 46.3 mmol), 3-fluorobenzyl alcohol (16.7 g, 132.4 mmol) and potassium carbonate (12.8 g, 92.6 mmol) in DMF (210 mL) was heated at 65° C. for 48 h. After cooling to rt, the mixture was poured into water (400 mL), and extracted with diethyl ether (3×100 mL). The combined extracts were washed with brine (100 mL) dried and evaporated. Purification by chromatography on silica gel eluting with ethyl acetate:hexane (1:1) afforded the title compound (14.0 g, 76%) as a light yellow liquid.

reactant | 4-(3-Fluoro-benzyloxy)-2-nitro-benzoic acid (3-fluoro-benzyl) ester | FC=1C=C(COC(C2=C(C=C(C=C2)OCC2=CC(=CC=C2)F)[N+](=O)[O-])=O)C=CC1 | C21H15F2NO5
reactant | 4-(3-fluoro-benzyloxy)-2-nitro-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCC1=CC(=CC=C1)F)[N+](=O)[O-])=O | C15H12FNO5
reactant | 4-fluoro-2-nitro-benzoic acid methyl ester | 46.3 mmol, 9.2 g | COC(C1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C8H6FNO4
reactant | 3-fluorobenzyl alcohol | 132.4 mmol, 16.7 g | FC=1C=C(CO)C=CC1 | C7H7FO
reactant | potassium carbonate | 92.6 mmol, 12.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 210 mL | CN(C)C=O | C3H7NO
solvent | water | 400 mL | O | H2O
product | 2-[7-(3-Fluoro-benzyloxy)-2-methyl-4-oxo-4H-quinazolin-3-yl]-acetamide | 14.0 g, 76% | FC=1C=C(COC2=CC=C3C(N(C(=NC3=C2)C)CC(=O)N)=O)C=CC1 | C18H16FN3O3
